### PR TITLE
[Merged by Bors] - chore(SetTheory/Ordinal/Arithmetic): remove `backward.privateInPublic`

### PR DESCRIPTION
**Pull request by vihdzp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 1]
```diff
@@ -570,23 +570,18 @@ theorem type_prod_lex {α β : Type u} (r : α → α → Prop) (s : β → β 
...
-  ⟨fun {_ _} => mul_eq_zero'.1⟩
+private theorem mul_eq_zero' {a b : Ordinal} : a * b = 0 ↔ a = 0 ∨ b = 0 := by
+  refine inductionOn₂ a b fun α _ _ β _ _ ↦ ?_
+  simp_rw [← type_prod_lex, type_eq_zero_iff_isEmpty]
+  rw [or_comm]
+  exact isEmpty_prod
+
+instance monoidWithZero : MonoidWithZero Ordinal where
+  mul_zero _ := private mul_eq_zero'.2 (.inr rfl)
+  zero_mul _ := private mul_eq_zero'.2 (.inl rfl)
```
Comment (plp127) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean]: I wonder if `by exact` would be more appropriate here instead?

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]: what's the reason to prefer one over the other for short term-mode proofs?

Comment (plp127) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]: There is a difference - using `by` creates `monoidWithZero._proof_n` declarations, but using `private` creates `monoidWithZero._private_n` declarations. I don't know if there is a significant difference between the two but given that theses are proofs I think it should be better to generate a `_proof_1` and `_proof_2` rather than a `_private_1` and `_private_2`.

Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean]: Sure, why not.
```suggestion
  mul_zero _ := by exact mul_eq_zero'.2 (.inr rfl)
  zero_mul _ := by exact mul_eq_zero'.2 (.inl rfl)
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 2]
```diff
@@ -570,23 +570,18 @@ theorem type_prod_lex {α β : Type u} (r : α → α → Prop) (s : β → β 
...
-    mul_zero := fun _a => mul_eq_zero'.2 <| Or.inr rfl
-    zero_mul := fun _a => mul_eq_zero'.2 <| Or.inl rfl }
-
-instance noZeroDivisors : NoZeroDivisors Ordinal :=
-  ⟨fun {_ _} => mul_eq_zero'.1⟩
+private theorem mul_eq_zero' {a b : Ordinal} : a * b = 0 ↔ a = 0 ∨ b = 0 := by
+  refine inductionOn₂ a b fun α _ _ β _ _ ↦ ?_
+  simp_rw [← type_prod_lex, type_eq_zero_iff_isEmpty]
+  rw [or_comm]
+  exact isEmpty_prod
```
Comment (Komyyy) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean]: You can write it a little more elegantly:
```suggestion
  induction a, b using inductionOn₂ with | _ α _ β _
  simp_rw [← type_prod_lex, type_eq_zero_iff_isEmpty, isEmpty_prod, iff_true_intro or_comm]
```

(I left the case name as `_ α _ β _` instead of `H α _ β _`, because the argument names of `Ordinal.inductionOn₂` should be more descriptive.)

**Review by Komyyy — COMMENTED** [review]
Thank you for your contribution!

BTW, yesterday I become a reviewer officially.

<details>
<summary>For maintainers; what I confirmed</summary>

I tried to prove `monoidWithZero` and `noZeroDivisors` with less code and without `mul_eq_zero'`, but in the end it was reconfirmed that keeping `mul_eq_zero'` results in less code overall.

</details>

**Review by Komyyy — APPROVED** [review]
Thank you!
maintainer merge
